US03959322
Dissolve 13β-isopropyl-3-methoxy-gona-2,5(10)-dien-17β-ol in methanol (36 cc.), concentrated hydrochloric acid (2.4 cc.) and water (1.6 cc.) and allow the mixture to stand at room temperature for 2 hours. Add water and collect the product in ether. Wash, dry and evaporate the ethereal solution and chromatograph the residue on alumina (30 g.). Elute with benzene containing 30% ether and evaporate the solvent to obtain 13β-isopropyl-17β-hydroxy-gon-4-en-3-one as a gum; infrared absorption peak at 5.99 μ; ultraviolet absorption peak at 240 mμ (ε12,000).

reactant | 13β-isopropyl-3-methoxy-gona-2,5(10)-dien-17β-ol | C(C)(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)O | C21H32O2
solvent | methanol | 36 cc | CO | CH4O
solvent | hydrochloric acid | 2.4 cc | Cl | ClH
solvent | water | 1.6 cc | O | H2O
product | 13β-isopropyl-17β-hydroxy-gon-4-en-3-one | C(C)(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C20H30O2
